US07906660B2
trans-7-Hydroxy-4′-methoxy-8-methylisoflavan-4-ol was prepared from trans-7-acetoxy-4′-methoxy-8-methylisoflavan-4-ol (0.23 g, 0.7 mmol) and imidazole (0.28 g) in ethanol (2.1 ml) as described for cis- and trans-tetrahydrodaidzein. m.p. 162° C. Mass spectrum: 285 M, 5%); 268 (10); 151 (20); 135 (20); 134 (100); 119 (20). 1H NMR (d6-acetone): δ 1.97 (s, 3H, CH3), 3.00 (ddd, 1H, J 3.4 Hz, 7.2 Hz, 10.2 Hz, H3), 3.72 (s, 3H, OMe), 4.20 (dd, 1H J 7.5 Hz, 10.9 Hz, H2); 4.27 (m, 1H, H2), 4.73 (d, 1H, J 6.8 Hz, H4), 6.45 (d, 1H, J 8.3 Hz, H6), 6.85 (d, 2H, J 8.6 Hz, ArH), 7.10 (d, 1H, J 8.7 Hz, H5), 7.18 (d, 2H, J 8.6 Hz, ArH).

reactant | trans-7-acetoxy-4′-methoxy-8-methylisoflavan-4-ol | 0.7 mmol, 0.23 g | C(C)(=O)OC1=CC=C2[C@H]([C@@H](COC2=C1C)C1=CC=C(C=C1)OC)O | C19H20O5
reactant | imidazole | 0.28 g | N1C=NC=C1 | C3H4N2
solvent | ethanol | 2.1 ml | C(C)O | C2H6O
product | trans-7-Hydroxy-4′-methoxy-8-methylisoflavan-4-ol | OC1=CC=C2[C@H]([C@@H](COC2=C1C)C1=CC=C(C=C1)OC)O | C17H18O4
